US07807676B2
To a mixture of 1H-1,2,4-triazol-3-amine (500 mg, 5.95 mmol) and TEA (0.829 mL, 5.95 mmol) in toluene (25 mL) was added pivaloyl chloride (0.732 mL, 5.95 mmol). The mixture was heated up at 110° C. for 13 h. The reaction mixture was quenched with water, filtered and the extracted with ethyl acetate (3×10 ml). The organic layer was washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to afford N-(1H-1,2,4-triazol-3-yl)pivalamide (250 mg, 25%) as white solid. 1H NMR (500 MHz, MeOD) δ ppm 1.48 (s, 9H) 7.48 (s, 1H).

reactant | 1H-1,2,4-triazol-3-amine | 5.95 mmol, 500 mg | N1N=C(N=C1)N | C2H4N4
reactant | pivaloyl chloride | 5.95 mmol, 0.732 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1H-1,2,4-triazol-3-yl)pivalamide | 250 mg, 25% | N1N=C(N=C1)NC(C(C)(C)C)=O | C7H12N4O
